US05006534
1-[3-(Quinolin-8-yloxymethyl)phenyl]pentyl acetate
1.45 g of 8-hydroxyquinoline and 1.38 g of ground anhydrous potassium carbonate are stirred in 20 ml of dimethylformamide at 25° C. for 2 hours. 2.99 g of 1-(3-bromomethylphenyl)pentyl acetate, dissolved in 10 ml of dimethylformamide, are then added dropwise and the reaction mixture is stirred overnight. The solvent is distilled off in vacuo, the residue is partitioned between water/ethyl acetate and the organic phase is dried over Na2SO4 and then concentrated in vacuo. The residue is chromatographed over silica gel 60 (Merck 9385) with CH2Cl2 /methanol 100:5 (Rf =0.45). An oil is obtained in a yield of 94% of theory.

reactant | 8-hydroxyquinoline | 1.45 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-bromomethylphenyl)pentyl acetate | 2.99 g | C(C)(=O)OC(CCCC)C1=CC(=CC=C1)CBr | C14H19BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[3-(Quinolin-8-yloxymethyl)phenyl]pentyl acetate | yield of 94% | C(C)(=O)OC(CCCC)C1=CC(=CC=C1)COC=1C=CC=C2C=CC=NC12 | C23H25NO3
